US06379400B1
Synthesis of N-Cyclopropyl-2-methyl-4-nitro-phenylamine
1-Fluoro-2-methyl-4-nitrobenzene (3.7 g, 24.8 mmoles) is refluxed for 5 hours with 8.1 g (0.14 moles) of cyclopropylamine. After that, the reaction product is poured onto 250 g of ice/water and the solid obtained is recrystallized from ethanol. A yellow solid with a melting point of 35°-37° C. is obtained.

reactant | 1-Fluoro-2-methyl-4-nitrobenzene | 24.8 mmoles, 3.7 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | cyclopropylamine | 0.14 moles, 8.1 g | C1(CC1)N | C3H7N
product | N-Cyclopropyl-2-methyl-4-nitro-phenylamine | C1(CC1)NC1=C(C=C(C=C1)[N+](=O)[O-])C | C10H12N2O2
